US07495004B2
N-{3-[7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]phenyl}-2,2,2-trifluoroacetamide
A solution of 8-(3-aminophenyl)-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione (20 mg, 0.05 mmol) in 213 μL CH2Cl2 was treated with trifluoroacetic anhydride (7.8 μL, 0.06 mmol). The reaction was stirred for 1.5 hr and then blown dry under nitrogen. The crude product was purified by preparative thin layer chromatography (silica gel, 1 mm plate, EM Science 20×20 cm silica gel 60 F264) eluting with EtOAc:hexane (2:1) to give 18 mg (72% yield) of the title compound as a white solid: 1H NMR (CDCl3, 400 MHz) 8.16 (s, 1H), 7.74-7.65 (m, 2H), 7.41 (t, 1H, J=8.1 Hz), 7.35-7.30 (m, 1H), 7.14-7.01 (m, 2H), 6.83-6.75 (m, 1H), 5.88 (s, 2H), 3.62 (s, 3H), 3.39 (s, 3H), 2.97 (s, 3H); MS (ESP+) m/e 510 (MH+); TLC (EtOAc:hexanes/3:1) Rf=0.68.

reactant | 8-(3-aminophenyl)-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione | 0.05 mmol, 20 mg | NC=1C=C(C=CC1)C1=NC=2N(C(N(C(C2N1CC1=C(C=CC=C1F)Cl)=O)C)=O)C | C20H17ClFN5O2
reactant | trifluoroacetic anhydride | 0.06 mmol, 7.8 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 213 μL | C(Cl)Cl | CH2Cl2
product | N-{3-[7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]phenyl}-2,2,2-trifluoroacetamide | 18 mg, 72% yield | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)C)C=2C=C(C=CC2)NC(C(F)(F)F)=O)C(=CC=C1)F | C22H16ClF4N5O3
